US07211572B2
Methyl [5-benzyloxy-6-(3-chlorobenzylcarbamoyl)-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridin-3-yl]acetate (30 mg) was dissolved in trifluoroacetic acid (1 ml) and the mixture was stirred at 70° C. for 4 hr. The mixture was cooled and concentrated. Toluene was added to the residue and the mixture was concentrated again, which operations were performed twice. Crystallization from ethyl acetate-diisopropyl ether gave methyl [2-(3-chlorobenzyl)-9-hydroxy-1,8-dioxo-1,8-dihydro-2H-pyrido[1,2-a]pyrazin-7-yl]acetate (17 mg).

reactant | Methyl [5-benzyloxy-6-(3-chlorobenzylcarbamoyl)-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridin-3-yl]acetate | 30 mg | C(C1=CC=CC=C1)OC=1C(C(=CN(C1C(NCC1=CC(=CC=C1)Cl)=O)CC(OC)OC)CC(=O)OC)=O | C27H29ClN2O7
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | methyl [2-(3-chlorobenzyl)-9-hydroxy-1,8-dioxo-1,8-dihydro-2H-pyrido[1,2-a]pyrazin-7-yl]acetate | 17 mg | ClC=1C=C(CN2C(C=3N(C=C2)C=C(C(C3O)=O)CC(=O)OC)=O)C=CC1 | C18H15ClN2O5
